US07838524B2
Ethyl(4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate
A mixture of ethyl(4-{3-tert-butyl-5-[(phenoxycarbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate (3.0 g, 7.12 mmol) and 4-(pyridin-4-yloxy)aniline (1.26 g, 6.78 mmol) in THF (50 mL) was heated at 60° C. overnight. The reaction mixture was cooled to room temperature and then evaporated at reduced pressure to afford a brown syrup, which was purified by MPLC (25:75 to 70:30 EtOAc/hexane). The desired product was obtained as a white solid (2.42 g) in 70% yield. 1H-NMR (CD2Cl2-d2) δ 8.35 (m, 2H), 8.06 (s, 1H), 7.42 (m, 4H), 7.33 (s, 1H), 7.28 (d, J=8.3 Hz, 2H), 6.99 (d, J=8.8 Hz, 2H), 6.88 (d, J=5.8 Hz, 2H), 6.35 (s, 1H), 4.12 (q, J=7.1 Hz, 2H), 3.63 (s, 2H), 1.31 (s, 9H), 1.27 (t, J=7.1 Hz, 3H); MS LC-MS [M+H]+=514.2, RT=2.66 min.

reactant | ethyl(4-{3-tert-butyl-5-[(phenoxycarbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate | 7.12 mmol, 3.0 g | C(C)OC(CC1=CC=C(C=C1)N1N=C(C=C1NC(=O)OC1=CC=CC=C1)C(C)(C)C)=O | C24H27N3O4
reactant | 4-(pyridin-4-yloxy)aniline | 6.78 mmol, 1.26 g | N1=CC=C(C=C1)OC1=CC=C(N)C=C1 | C11H10N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl(4-{3-tert-butyl-5-[({[4-(pyridin-4-yloxy)phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)acetate | 70% yield | C(C)OC(CC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C)=O | C29H31N5O4
